US05059597
c) 5-Benzyl-octahydropyrrolo[3,4-b]pyrrole
57.7 g (0.25 mol) of crude 5-benzyl-4,6-dioxo-octahydropyrrolo[3,4-b]pyrrole are reduced with 21.4 g (0.56 mol) of lithium aluminum hydride by boiling in 700 ml of absolute tetrahydrofuran for 10 hours in accordance with the working instructions of Example Ic. Working up by distillation gives 21.0 g (41.1% of theory) of an oil of boiling point 95° C./0.1 mbar.

reactant | 5-benzyl-4,6-dioxo-octahydropyrrolo[3,4-b]pyrrole | 0.25 mol, 57.7 g | C(C1=CC=CC=C1)N1C(C2NCCC2C1=O)=O | C13H14N2O2
reactant | lithium aluminum hydride | 0.56 mol, 21.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 5-Benzyl-octahydropyrrolo[3,4-b]pyrrole | C(C1=CC=CC=C1)N1CC2NCCC2C1 | C13H18N2
